US04145546
2-(4-chloro-3-(1,2,5)-thiadiazolylmethylthio)ethylamine may be prepared by the following route: 3-Methyl(1,2,5)thiadiazole is chlorinated for 4 days in acetonitrile at 25° to give 4-chloro-3-methyl(1,2,5)thiadiazole (oil) which is treated with N-bromosuccinimide in carbon tetrachloride to give 3-bromomethyl-4-chloro(1,2,5)thiadiazole (oil), the 100 MHz n.m.r. in CDCl3 had singlet at 4.66δ. 3-Bromomethyl-4-chloro(1,2,5 )thiadiazole was treated with cysteamine and sodium ethoxide in ethanol to give 2-(4-chloro-3(1,2,5)thiadiazolylmethylthio)ethylamine (oil). A 60 MHz n.m.r. spectrum (CDCl3) gave a singlet at 3.91 attributed to the Het-CH2 -S protons.

reactant | 3-Bromomethyl-4-chloro(1,2,5 )thiadiazole | BrCC1=NSN=C1Cl | C3H2BrClN2S
reactant | cysteamine | NCCS | C2H7NS
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-(4-chloro-3(1,2,5)thiadiazolylmethylthio)ethylamine | ClC=1C(=NSN1)CSCCN | C5H8ClN3S2
